Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Falls x2
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Obtained from ___, ___ Records,
son/HCP and RN who cares for her at assisted living facility. 
 
___ yo F with pmh of 2 meningiomas (status post surgical 
resection
of one meningioma and proton beam therapy at ___),
hypertension, mitral valve prolapse, distant MI (not intervened
upon), alcohol use disorder, legally blind, chronic worsening
visual hallucinations and confusion who presents after being
found down x2. 

Per patient, she last remembers going to bed and needing to get
up to go to bathroom. She believes she slipped off the covers 
and
slip onto the ground. She also recalls being found on the ground
after falling from bed at around 3 AM. Unknown LOC or 
headstrike.
Per RN ASH signout, patient was found on the ground in her
apartment and wasn't able to get up. She was not unconscious. RN
could not help patient to bed. Paramedics helped put her back in
bed. She had a second unwitnessed fall around 60-90 minutes
later. Patient not on blood thinners. Patient endorses feeling
very fatigued over the last few days per E.D. note, but denies
fatigue at present. Per RN at ___, she was walking around
facility just yesterday without assistance/walker. At the
facility, she has been very confused lately. She wanders the
hallways by herself. RN reports she is very stubborn and wanting
to leave the facility. She does not like new things and refuses
assistance of any kind. She's been hallucinating a lot at rehab
ex: sees dead husband, sees a cat. She typically refuses to
follow commands. 

In ___, patient was seen by ___ Geriatrics because she was
having visual hallucinations and some memory loss, word finding
difficulties. Visual hallucinations include looking for mother
and father. Saw her sons ___ and ___ in her spare bedroom
twin beds and thought they were dead. No complaints of 
headaches.
She continues to drink alcohol nightly. (Per OMR review, 4oz of
scotch/night. Per RN at ASH, patient has ___ glasses of
wine/night.) She also has never been compliant with her
medications. Her BP was okay at clinic visit and since she
refuses medications, amlodipine and paxil were discontinued with
son, ___, in agreement. 

She was seen by neurosurgeon ___, M.D.) at ___ on
___ for progressive memory loss and deteriorating 
vision,
associated with hallucinations and confusion. (She was seen by 
MD
in ___ and ___ Per ___ records, she had a craniotomy at ___ in the mid ___ for a meningioma that sounds
like it could have involved the tuberculum sella/chiasm. She was
also found to have a left sylvian fissure meningioma. Her visual
exam at that time by Drs. ___ showed hand motion
vision on the left and acuity on the right correctable to about
___. The left sylvian fissure tumor was treated with proton
radiosurgery. She has since been lost to follow-up since ___. 
On
exam today she appears to be blind in the left eye with hand
motion vision on the right and can count fingers on the right at
about 3 feet. Neurosurgery reviewed MRI comparing it to most
recent from ___. Per note, "no sign of a recurrent tuberculum
tumor, or compression of the optic chiasm. The left sylvian
fissure meningioma is actually about 7 mm +/-  larger than it 
was
in all ___ in ___. No significant underlying cortical
compression or surrounding edema. There is diffuse white matter
disease. This was actually present in ___ and mildly present in
___ on the original studies, but has significantly progressed.
There is also moderate ventriculomegaly which is probably ex
vacuo and may be slightly more prominent than it was in ___
Neurosurgery did not find an anatomic cause for her progressive
visual loss on MRI. There was "no sign of recurrent optic nerve
or chiasm compression. Doubt that this is radiation related 
given
that the treated tumor is well away from the nerve and chiasm.
Memory issues, confusion and hallucinations most likely related
to the diffuse white matter changes. No underlying unifying
diagnosis to explain both the white matter changes in the visual
loss." Referred patient for evaluation at the memory disorders
unit and a follow-up visit with Dr. ___ to better
diagnose the underlying etiology.  

Pt currently with no complaints including f/c/n/v/cp/sob/abd
pain/extremity injuries/urinary or bowel symptoms. 

In the ED:

Initial vital signs were notable for: VSS (97.3, 96, 137/104, 
18,
Sat 96% RA) 

Exam notable for: Suddenly being unable to follow commands and
weakness as evaluated by ___. 

Labs were notable for: u/a bland, no leukocytosis, no anemia 

Studies performed include:
CXR, CT Head, CT Neck 

Patient was given:
___ 06:50 PO/NG amLODIPine 5 mg 
___ 07:28 PO/NG FoLIC Acid 1 mg 
___ 07:28 PO Multivitamins 1 TAB 
___ 07:28 PO/NG PARoxetine 20 mg 

Consults:
Physical Therapy: Completed 10:27
Lives in ___ and uses walker while inside. Unclear if pt was
ambulating with her walker during both falls, pt is a poor
historian and only oriented to self, date and reason for
hospitalization. Not oriented to location. Pt demonstrates
impairments in cognitive function, unclear baseline. Pt is
however independent in gait and transfers with RW and cleared 
for
d/c home c ___ and OT services. Recommend OT consult to assess 
for
home safety. - ___

E.D. course notable for BP up to 198/129 at 7:30AM. 

Vitals on transfer: 98.1 93 165/106 18 95% RA 
 
Upon arrival to the floor, patient A&Ox1-2. She believes we're 
in
a cottage on ___. She was very close in knowing the date
(___).  Although patient is not a reliable historian,
she does describe slipping out of bed ___ slippery covers. It is
unclear why she had acute "knee weakness" preventing her from
standing up, even with the help of RN.She denies any pain. She 
is
intermittently pleasant and very agitated/paranoid.  

 
Past Medical History:
DEPRESSION                                                      
MENINGIOMA                                                      
DIVERTICULOSIS                                                  
MIGRAINE HEADACHES                                              
LEGAL BLINDNESS                                                 
HYPERTENSION                                                    
MITRAL VALVE PROLAPSE                                           
MYOCARDIAL INFARCTION                                           
ACTINIC KERATOSIS                                               
SEBORRHEIC KERATOSIS     
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM
==============
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and
without injection. MMM.
NECK: No JVD appreciated. 
CARDIAC: Irregularly irregular rhythm, normal rate. Audible S1
and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
1+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation.

DISCHARGE EXAM
==============
24 HR Data (last updated ___ @ 1144)
    Temp: 98.1 (Tm 98.5), BP: 146/91 (146-184/84-112), HR: 86
(81-98), RR: 20 (___), O2 sat: 94% (93-96), O2 delivery: Ra    


GENERAL: Well appearing laying in bed, NAD
HEENT: Supple, no JVD
CV: irregularly irregular, normal rate, no murmurs rubs or
gallops
PULM: mild referred upper airway sounds but otherwise CTAB
GI: Obese, soft, non tender, non distended
EXTREMITIES: Warm and well perfused, no edema
NEURO: oriented to person, year, and month but not day or place.
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:13AM BLOOD WBC-6.4 RBC-3.84* Hgb-12.0 Hct-37.1 
MCV-97 MCH-31.3 MCHC-32.3 RDW-13.9 RDWSD-49.1* Plt ___
___ 05:13AM BLOOD Neuts-71.2* Lymphs-16.6* Monos-9.1 
Eos-2.3 Baso-0.6 Im ___ AbsNeut-4.55 AbsLymp-1.06* 
AbsMono-0.58 AbsEos-0.15 AbsBaso-0.04
___ 05:13AM BLOOD ___ PTT-26.0 ___
___ 05:13AM BLOOD Glucose-105* UreaN-21* Creat-1.1 Na-145 
K-4.4 Cl-106 HCO3-24 AnGap-15

MICRO
=====
___ 7:13 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING
=======
___ CT HEAD
IMPRESSION: 
1. No acute intracranial abnormality identified on noncontrast 
head CT.  
Specifically no intracranial hemorrhage or large territory 
infarct. 
2. Age-related global parenchymal loss and likely sequela of 
chronic 
microvascular ischemic disease. 
3. No acute displaced calvarial fracture.  Postsurgical changes 
as described 
above. 
4. Rounded minimally expansile focus of mucus within the right 
frontal sinus 
adjacent to the surgical site may represent a developing 
mucocele versus 
retention cyst. 

___ CT C-SPINE
IMPRESSION: 
1. No acute fracture or traumatic subluxation of the cervical 
spine. 
2. Smooth septal thickening of the visualized lung apices may 
suggest fluid overload. 
3. Mild-to-moderate degenerative change of the cervical spine, 
most notable at C5-6. 

___ TTE
Mild symmetric left ventricular hypertrophy with normal cavity 
size
and low normal global biventricular systolic function. Mild to 
moderate mitral regurgitation. Mild aortic
regurgitation.

___ CXR 
IMPRESSION:   
No evidence of pneumonia. There is increased platelike 
atelectasis at the 
right lung base. 

NOTABLE/DISCHARGE LABS
======================
___ 07:01AM BLOOD WBC-8.4 RBC-3.90 Hgb-12.4 Hct-37.2 MCV-95 
MCH-31.8 MCHC-33.3 RDW-13.9 RDWSD-48.0* Plt ___
___ 07:01AM BLOOD Glucose-108* UreaN-14 Creat-0.9 Na-143 
K-3.9 Cl-102 HCO3-26 AnGap-15
___ 07:01AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.1

___ 06:38AM BLOOD VitB12-808 Folate->20
___ 06:38AM BLOOD TSH-0.79
 
Brief Hospital Course:
SEE DISCHARGE WORKSHEET

LOS < 30 DAYS EXPECTED
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
========
mechanical fall

SECONDARY
==========
new onset atrial fibrillation

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

___ was a privilege  to care for you during your admission to ___ 
___.

Why were you admitted to the hospital?
- You were admitted because you had fallen twice at your 
assisted living home.

What was done while you were admitted?
- Images of your head and spine were performed to make sure 
there were no injuries.
- Tests were performed to look for a possible reason for the 
falls. No clear reason was found.
- The physical therapists recommended that you go to a rehab 
facility to get your strength back.

What should you do when you go home?
- Use caution when getting out of bed at night. Take a few 
moments to sit up and gain balance before standing. Turn on a 
light. Ensure that there is nothing that can be tripped on like 
slippers or a rug on the way to the restroom.

We wish you the best!

Your BIMDC Care Team
 
Followup Instructions:
___